US04065573
A reaction mixture consisting of 29.8 gm (0.102 mole) of 2-carbomethoxy-4-(p-chlorophenyl)-4-cyanocyclohexanone (prepared in Part B, above), 660 ml. glacial acetic acid, and 330 ml. 10% aqueous sulfuric acid is heated on a steam bath at about 100° C. for 24 hours. The mixture is stirred continuously. After cooling, the mixture is diluted with 1300 ml. water, and extracted with benzene. The benzene phase is recovered and washed successively with water, with aqueous sodium bicarbonate, and with brine. The benzene is then removed by evaporation under reduced pressure to give a solid residue. The solid residue is recrystallized from diethyl ether to give 12.13 gm. (82% yield) of 4-(p-chlorophenyl)-4-cyanocyclohexanone having a melting point at 94.5° to 97° C.

reactant | 2-carbomethoxy-4-(p-chlorophenyl)-4-cyanocyclohexanone | 0.102 mole, 29.8 gm | C(=O)(OC)C1C(CCC(C1)(C#N)C1=CC=C(C=C1)Cl)=O | C15H14ClNO3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-(p-chlorophenyl)-4-cyanocyclohexanone | 82% yield | ClC1=CC=C(C=C1)C1(CCC(CC1)=O)C#N | C13H12ClNO
